US08304556B2
B-07a) (4-Bromo-benzyl)-dimethyl-amine
At 5° C. 4-bromobenzylbromide (100 g, 402 mmol) in 100 mL DMF is added to a mixture of dimethylamine (40% in water, 150 mL, 1.33 mol). After 0.5 h stirring at RT, 6 M aqueous HCl is added and the reaction mixture is extracted with diethyl ether. The combined organic phases are washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue is purified by vacuum distillation (bp 58° C. at 2 mbar). Yield: 77.6 g.

reactant | 4-bromobenzylbromide | 402 mmol, 100 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | dimethylamine | 1.33 mol, 150 mL | CNC | C2H7N
reactant | HCl | 6 M | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (4-Bromo-benzyl)-dimethyl-amine | BrC1=CC=C(CN(C)C)C=C1 | C9H12BrN
